US07087635B2
A mixture of [2-(7-hydroxy-1H-indol-3-yl)-1,1-dimethyl-ethyl]-carbamic acid tert-butyl ester (15.55 g, 51.1 mmol), bromoacetonitrile (10.7 mL, 153 mmol), K2CO3 (17.78 g, 128.6 mmol) and 2-butanone is heated to reflux. After 1 hour the mixture is allowed to cool and is filtered through celite. The filtrate is concentrated to an oil which is purified by flash chromatography with CH2Cl2 followed by 5% ethyl acetate/CH2Cl2 to give 15.18 g of [2-(7-cyanomethoxy-1H-indol-3-yl)-1,1-dimethyl-ethyl]-carbamic acid tert-butyl ester (86%). MS (ES−) m/z 342.

reactant | [2-(7-hydroxy-1H-indol-3-yl)-1,1-dimethyl-ethyl]-carbamic acid tert-butyl ester | 51.1 mmol, 15.55 g | C(C)(C)(C)OC(NC(CC1=CNC2=C(C=CC=C12)O)(C)C)=O | C17H24N2O3
reactant | bromoacetonitrile | 153 mmol, 10.7 mL | BrCC#N | C2H2BrN
reactant | K2CO3 | 128.6 mmol, 17.78 g | C(=O)([O-])[O-].[K+].[K+]
solvent | 2-butanone | CC(CC)=O | C4H8O
product | [2-(7-cyanomethoxy-1H-indol-3-yl)-1,1-dimethyl-ethyl]-carbamic acid tert-butyl ester | 15.18 g, 86% | C(C)(C)(C)OC(NC(CC1=CNC2=C(C=CC=C12)OCC#N)(C)C)=O | C19H25N3O3
